US07459472B2
4-Methoxy-4′-nitro-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide (0.045 g) was prepared from 4-Methoxy-4′-nitro-biphenyl-3-carboxylic acid (0.03 g, 0.11 mmol) and 2-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethylamine hydrochloride salt (0.04 g, 0.11 mmol) following general procedure A

reactant | 4-Methoxy-4′-nitro-biphenyl-3-carboxylic acid | 0.11 mmol, 0.03 g | COC1=C(C=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C14H11NO5
reactant | 2-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethylamine hydrochloride salt | 0.11 mmol, 0.04 g | Cl.ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](C1=NC(=NO1)C)N
product | 4-Methoxy-4′-nitro-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide | 0.045 g | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](C1=NC(=NO1)C)NC(=O)C=1C=C(C=CC1OC)C1=CC=C(C=C1)[N+](=O)[O-] | C31H24ClFN4O5
